US07378418B2
279D. Preparation of 3-Chloro-5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazine
5-(4-Fluorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one was reacted with POCl3 using procedures analogous to those described in Example 273C to give the title compound, 3-chloro-5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazine. LC/MS (method A): RT=1.43 min, (M+H)+=286.

reactant | 5-(4-Fluorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one | FC1=CC=C(C=C1)C1=C(C(NN=C1)=O)C1=CC=NC=C1 | C15H10FN3O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazine | ClC=1N=NC=C(C1C1=CC=NC=C1)C1=CC=C(C=C1)F | C15H9ClFN3
